CIRCUIT C:\microwind2\Book on CMOS\ChargePump.MSK
*
* IC Technology: CMOS 0.12µm - 6 Metal
*
VDD 1 0 DC 1.20
Vclock1 9 0 PULSE(0.00 1.20 0.50N 0.05N 0.05N 0.50N 1.10N)
*
* List of nodes
* "N2" corresponds to n°2
* "VCharge" corresponds to n°5
* "N6" corresponds to n°6
* "Vout" corresponds to n°7
* "clock1" corresponds to n°9
*
* MOS devices
MN1 5 5 7 0 N1  W= 0.60U L= 0.12U
MN2 0 9 6 0 N1  W= 0.36U L= 0.12U
MP1 5 5 1 1 P1  W= 0.60U L= 0.12U
MP2 1 9 6 1 P1  W= 0.96U L= 0.12U
*
C3 1 0  1.122fF
C4 1 0  1.930fF
C5 5 0 39.762fF
C6 6 0 35.841fF
C7 7 0  0.356fF
C9 9 0  0.478fF
*
* Crosstalk capacitance
*
Cx5_6 5 6 39.267fF
*
*
* n-MOS BSIM4 :
* low leakage
.MODEL N1 NMOS LEVEL=14 VTO=0.40 U0=0.050 TOX= 3.5E-9 LINT=0.010U 
+K1 =0.450 K2=0.100 DVT0=2.300
+DVT1=0.540 LPE0=23.000e-9 ETA0=0.080
+NFACTOR=  1.6 U0=0.050 UA=3.000e-15
+WINT=0.020U LPE0=23.000e-9 
+KT1=-0.060 UTE=-1.800 VOFF=0.050
+XJ=0.150U NDEP=170.000e15 PCLM=1.100
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS BSIM4:
* low leakage
.MODEL P1 PMOS LEVEL=14 VTO=-0.45 U0=0.018 TOX= 3.5E-9 LINT=0.010U 
+K1 =0.450 K2=0.100 DVT0=2.300
+DVT1=0.540 LPE0=23.000e-9 ETA0=0.080
+NFACTOR=  1.6 U0=0.018 UA=3.000e-15
+WINT=0.020U LPE0=23.000e-9 
+KT1=-0.060 UTE=-1.800 VOFF=0.050
+XJ=0.150U NDEP=170.000e15 PCLM=0.700
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.30PS 10.00N
.PROBE
.END
